US06664111B2
Synthesis of 6-[4-(7-phenyl-1,10-phenanthrolin-4-yl)phenyl]hexan-1-ol (ph2phenC6H12OH)
The procedure followed was similar to that of Case and Strohm (Case, F. H.; Strohm, P. F. J. Org. Chem, 1962, 27, 1641-1643). 3-Chloro-1-[4-(6-hydroxyhexyl)phenyl]propan-1-one (0.73 g), 8-amino-4-phenylquinoline (0.27 g), arsenic acid (0.99 g) and 85% phosphoric acid (10 mL) were reacted as described in the procedure for the synthesis of 8-nitro-4-phenylquinoline. However during precipitation of the crude product, a pH of 6-8 was maintained in order to ensure that the alcohol functionality remained protonated. The crude product was re-crystallized with a 50:50 mixture of petroleum ether and chloroform. Further purification of the desired product was achieved using preparatory TLC with 2% methanol and 98% chloroform.

reactant | 3-Chloro-1-[4-(6-hydroxyhexyl)phenyl]propan-1-one | 0.73 g | ClCCC(=O)C1=CC=C(C=C1)CCCCCCO | C15H21ClO2
reactant | 8-amino-4-phenylquinoline | 0.27 g | NC=1C=CC=C2C(=CC=NC12)C1=CC=CC=C1 | C15H12N2
reactant | arsenic acid | 0.99 g | [As](O)(O)(O)=O | AsH3O4
reactant | 8-nitro-4-phenylquinoline | [N+](=O)([O-])C=1C=CC=C2C(=CC=NC12)C1=CC=CC=C1 | C15H10N2O2
solvent | phosphoric acid | 10 mL | P(O)(O)(O)=O | H3O4P
product | 6-[4-(7-phenyl-1,10-phenanthrolin-4-yl)phenyl]hexan-1-ol | C1(=CC=CC=C1)C=1C2=CC=C3C(=CC=NC3=C2N=CC1)C1=CC=C(C=C1)CCCCCCO | C30H28N2O
